Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
L cheek swelling and pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ ___ from ___ with the
past medical history notable for hypertension and prior episodes
of ___ cellulitis who presents with left facial cellulitis.

In brief, Mr. ___ reports burst a blackhead on his left
cheek on ___ and by the next day ___ he noticed the surrounding
area we becoming red and swollen. It continued to get worse and
on ___ he went to ___ and was prescribed Bactrim and
Keflex for outpatient cellulitis treatment. However, the 
swelling
seemed to be getting worse still and so he returned ___ and
was admitted and started on IV antibiotics. He felt like, 
despite
the antibiotics, the swelling was still getting worse
progressively over the next few days. The swelling began
involving his lower eyelid and he noticed a grayish film in his
eye (although admitted it cleared when blinking and might be due
to the eye ointments he was using). He kept feeling unwell and
was getting more anxious that the infection was not improving.
Given the persistent infection and concern that he might need
ophthmaology consult, arrangements were started for a transfer
___ to ___ but the patient eloped before the transfer
was done and he went straight to the ED here himself. 

The ED confirmed that CT orbits/sinuses was done at ___ on
___ that was normal. And they did a needle aspiration of the
site. Our ED gave a dose of Unasyn and vanc.

Endorses headache the day he switched hospitals. Felt febrile 
and
unwell. Denies change in vision, pain with eye movement, eye
pain, double vision, difficulty moving his eye. No
nausea/vomiting, difficulty swallowing, neck pain, syncope,
presyncope, shortness of breath, chest pain, lower extremity
edema.

 
Past Medical History:
-___ cellulitis on his occiput
-Multiple family members get recurrent ___ infections and PCP 
has attempted decolonization of the entire family
-HTN
-Tobacco use
 
Social History:
___
FAMILY HISTORY: 
 
Family History:
-PGM- DM2
-MGM- HTN, stroke
-Father- prostate CA, ___ deceased
-Mother- DM2, HTN
-9 brothers and 5 daughters
--1 ___- prostate cancer 
--1 sister- acute leukemia; deceased

 
Physical Exam:
VITALS: Afebrile and vital signs stable (eOMR)
GENERAL: Friendly bearded gentleman lying hospital bed, in 
EYES/FACE: Left cheek is swollen, erythematous, indurated,
extending to under the left eye, making it partly closed. Point
of apparent original inoculation visible, no expressible
purulence or blood. Moderately tender to palpation. PERRL, EOMI,
anicteric sclerae. Eye watery but no purulence. No pain with eye
movements. No proptosis. 
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored.
GI: Abdomen soft, non-distended, non-tender to palpation. Bowel
sounds present. 
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs.
SKIN: Changes as noted above on face.
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout.

DISCHARGE EXAM
VITALS: last 24-hour vitals were reviewed.
GEN: NAD
EYE: EOMI, eye is not red
ENT: previous region of fluctuance overlying R maxilla is 
improving
markedly and has softened. The eye was previously swollen half 
closed but now is
mostly open. POC US happily shows resolving phlegmon (rather 
than coalescing into an abscess)
NECK: No LAD, no JVD
CARDIAC: RRR, no M/R/G
PULM: normal effort, no accessory muscle use, LCAB
GI: soft, NT, ND, NABS
MSK: No visible joint effusions or deformities.
DERM: No visible rash. No jaundice.
NEURO: AAOx3. No facial droop, moving all extremities.
PSYCH: Full range of affect
EXTREMITIES: WWP, no edema
 
Pertinent Results:
LABS:
___ 10:52PM BLOOD WBC: 10.6* RBC: 5.46 Hgb: 15.9 Hct: 49.6
MCV: 91 MCH: 29.1 MCHC: 32.1 RDW: 14.7 RDWSD: 48.8* Plt Ct: 212 
___ 10:52PM BLOOD Neuts: 73.2* Lymphs: 17.7* Monos: 7.7 
Eos:
0.7* Baso: 0.4 Im ___: 0.3 AbsNeut: 7.76* AbsLymp: 1.88 
AbsMono:
0.82* AbsEos: 0.07 AbsBaso: 0.04 
___ 10:52PM BLOOD Glucose: 106* UreaN: 14 Creat: 1.3* Na:
143 K: 4.4 Cl: 103 HCO3: 27 AnGap: 13 

MICRO:
___ Bcx x 2 NGTD (drawn after PO abx) 
___ superficial wound culture at ___: Peptostreptococcus
___ MRSA swab at ___: negative

IMAGING:
___ CT orbits/sinuses at ___
IMPRESSION: Left facial and preseptal cellulitis. No evidence of
orbital cellulitis.

 
Brief Hospital Course:
___ w/ HTN, recurrent ___ cellulitis, admitted with preseptal 
cellulitis.

# Preseptal cellulitis
# History of recurrent ___ cellulitis
   No red flags for orbital cellulitis. Unresponsive to 
bactrim/Keflex as an outpatient (although therapy not continued 
for sufficient duration to infer inadequate coverage). On 
admission he was treated with three days of vanc/unasyn with 
marked improvement in his infection. The phlegmon over his L 
maxilla was followed with serial POC US and was found to not be 
forming a drainable collection, but instead just resolving. 
Cultures were all negative, other than peptostreptococcus on a 
superficial wound culture, which is more likely from the skin 
surface. The infection appeared grossly like a staph infection 
and his MRSA swab was negative, so most likely pathogen is ___.
   He will take PO Augmentin to complete a ten-day course of 
total treatment. He expressed interest in re-attempting staph 
decolonization, so I prescribed intranasal mupirocin ointment 
and gave instructions on how to perform chlorhexidine baths, 

# Prerenal acute kidney injury (resolved)
Arrived with Cr 1.3, now 1.0 after IVF. 

# Hypertension
Held losartan/HCTZ in the setting of acute infection and 
hypovolemia, but restarted at discharge. 

# Tobacco use
Patient is contemplative about quitting. Says he would try the 
patch if he wants a quit aid but opts to buy it ___.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. losartan-hydrochlorothiazide 100-25 mg oral DAILY 

 
Discharge Medications:
1.  Amoxicillin-Clavulanic Acid ___ mg PO Q12H  
2.  Mupirocin Ointment 2% 1 Appl NU BID Duration: 7 Days  
3.  Nicotine Patch 21 mg TD QAM Tobacco withdrawal  
4.  losartan-hydrochlorothiazide 100-25 mg oral DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Preseptal cellulitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted for cellulitis on your left cheek. We treated 
you with antibiotics (vancomycin and Unasyn) and you got much 
better. Please take AUGMENTIN twice daily for six more days to 
finish treating the infection. 

The bacterial cultures did not grow any bacteria that would have 
been likely to be the cause of the infection, but it appeared to 
be a Staph infection by it's overall appearance. You have a 
history of recurrent (non-MRSA) staph infections and were 
interested in trying to decolonize your body of Staph. The 
declonization process is as follows: 

Twice a day for a week:
- apply mupirocin cream to the inside of your nostrils.
- Mix 4% chlorhexidine solution with water in a basin or bowl to 
make a "soap suds" solution (about 1:10 dilution, but eyeballing 
it is fine). Use a clean washcloth to gently scrub your entire 
body with this solution (except sensitive skin areas like right 
around the eyes). Alternately, you can run a shallow bath (~20 
gallons) and dump a whole quart of chlorhedidine in the 
bathwater, but that will cost about $6 per bath. You can buy 
chlorhexidine at ___ without a prescription.
 
Followup Instructions:
___